US07060721B1
4-Chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-5-hydroxymethyl-2-methyl-1H-imidazole (150 mg) was dissolved in 1,4-dioxane (1.5 ml) and p-toluenesulfonyl isocyanate (99 mg) was added at room temperature. The reaction mixture was stirred at room temperature for 1 hr and concentrated under reduced pressure. To the residue was added ethanol (5 ml) and the precipitated crystals were collected by filtration. The crystals were dissolved in ethyl acetate (2 ml), and hexane (13 ml) was added on an oil bath at 70° C. The mixture was allowed to cool and the precipitated crystals were collected by filtration. The crystals were dried by heating under reduced pressure to give (4-chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazol-5-yl)methyl N-(4-methylbenzenesulfonyl)carbamate (176 mg) as colorless crystals.

reactant | 4-Chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-5-hydroxymethyl-2-methyl-1H-imidazole | 150 mg | ClC=1N=C(N(C1CO)CC1=C(C=C(C=C1)OCCCCC)Cl)C | C17H22Cl2N2O2
reactant | p-toluenesulfonyl isocyanate | 99 mg | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | (4-chloro-1-(2-chloro-4-(1-pentyloxy)benzyl)-2-methyl-1H-imidazol-5-yl)methyl N-(4-methylbenzenesulfonyl)carbamate | 176 mg | CC1=CC=C(C=C1)S(=O)(=O)NC(OCC1=C(N=C(N1CC1=C(C=C(C=C1)OCCCCC)Cl)C)Cl)=O | C25H29Cl2N3O5S
